US08471005B2
{6-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1H-benzoimidazol-2-yl}-methanol was prepared from 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol and (6-amino-1H-benzoimidazol-2-yl)-methanol; dihydrochloride in an analogous manner to Example 1052a. Product isolated as a yellow solid (55 mg, 46%). m.p.=239-243° C.; LCMS (m/e) 387 (M+H); 1H-NMR (d6-DMSO, 400 MHz) δ 12.05 (bs, 1H), 9.23 (s, 1H), 8.93 (s, 1H), 8.15-7.42 (m, 2H), 7.87 (d, 1H, J=7.2 Hz), 7.50-7.40 (m, 1H), 7.40-7.22 (m, 1H), 7.22 (d, 1H, J=8.3 Hz), 7.19-7.07 (m, 1H), 6.99-6.85 (m, 2H), 5.60 (bs, 1H), 4.64 (s, 2H), 3.83 (s, 3H).

reactant | 7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)O | C13H11N3O2
reactant | (6-amino-1H-benzoimidazol-2-yl)-methanol | NC=1C=CC2=C(NC(=N2)CO)C1 | C8H9N3O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | {6-[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1H-benzoimidazol-2-yl}-methanol | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC=2C=CC1=C(NC(=N1)CO)C2 | C21H18N6O2
